US09428533B2
4-(4,5-Diphenyl-1H-imidazol-2-yl)-5-hydroxymethyl-2-methyl-pyridin-3-ol
Benzil (2.10 g, 10 mmol), ammonium acetate (11.5 g, 150 mmol) were dissolved in DMSO (60 mL) and heated to 100° C. Pyridoxal hydrochloride (4.1 g, 20 mmol) in DMSO (50 mL) was added drop wise and after 100 min stirring at 100° C. the reaction mixture was poured into icewater (300 mL) and aq. ammonium hydroxide solution (50 mL). The precipitate was filtered off, washed with water (100 mL), dissolved in ethyl acetate (150 mL) and extracted with water (2×50 mL). The organic layer was dried over MgSO4 (10 g) and evaporated to dryness. The residue was purified by flash chromatography on silica gel eluting with toluene/acetone 7/3. Fractions containing product were evaporated to a volume of 50 mL and cooled to 0° C. The precipitate was filtered off and dried to give (250 mg) the title compound as a yellow solid.

reactant | Benzil | 10 mmol, 2.10 g | C1(=CC=CC=C1)C(=O)C(=O)C1=CC=CC=C1 | C14H10O2
reactant | ammonium acetate | 150 mmol, 11.5 g | C(C)(=O)[O-].[NH4+]
reactant | Pyridoxal hydrochloride | 20 mmol, 4.1 g | CC1=NC=C(C(=C1O)C=O)CO.Cl
reactant | ammonium hydroxide | 50 mL | [OH-].[NH4+]
solvent | DMSO | 60 mL | CS(=O)C | C2H6OS
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
product | 4-(4,5-Diphenyl-1H-imidazol-2-yl)-5-hydroxymethyl-2-methyl-pyridin-3-ol | 250 mg | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)C1=C(C(=NC=C1CO)C)O | C22H19N3O2
